US05674906
Synthesis of (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene-Fmoc-L-leucineamide
(Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene (1.92 g, 6.1 mmols), 2.58 g (7.3 mmols) of Fmoc-L-Leu, 1.5 g (7.3 mmols) of DCC and 1.1 g (7.3 mmols) of HOBtH2O were dissolved in 40 ml of N,N-dimethylformamide, and the mixture was reacted at room temperature for 12 hours. The reaction mixture was diluted with ethyl acetate, then filtered and concentrated. The product was purified through silica-gel column chromatography (mixture of ethyl acetate and hexane at a ratio by volume of 1:2) to produce 3.05 g of the final product in a yield of 76.9%.

reactant | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene | 6.1 mmols, 1.92 g | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC | C18H21NO4
reactant | Fmoc-L-Leu | 7.3 mmols, 2.58 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
reactant | DCC | 7.3 mmols, 1.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene Fmoc-L-leucineamide | 3.05 g, yield of 76.9% | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC(C)C)C(=O)N | InChI=1S/C21H24N2O3.C18H21NO4/c1-13(2)11-19(20(22)24)23-21(25)26-12-18-16-9-5-3-7-14(16)15-8-4-6-10-17(15)18;1-20-15-8-7-12(9-14(15)19)5-6-13-10-16(21-2)18(23-4)17(11-13)22-3/h3-10,13,18-19H,11-12H2,1-2H3,(H2,22,24)(H,23,25);5-11H,19H2,1-4H3/b;6-5-/t19-;/m0./s1
